US08957104B2
A mixture of 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.025 g, 0.099 mmol), Cs2CO3 (0.129 g, 0.396 mmol), (2-chloroethyl)(methyl)sulfane (0.039 mL, 0.396 mmol) and potassium iodide (0.0165 g, 0.099 mmol) in DMF (2 mL) was heated at 80° C. After ˜1 h, additional Cs2CO3 (0.129 g, 0.396 mmol), (2-chloroethyl)(methyl)sulfane (0.039 mL, 0.396 mmol) and potassium iodide (0.0165 g, 0.099 mmol) were added, and heating was continued for 1 h. Upon cooling, the mixture was partitioned between EtOAc (25 mL) and water (20 mL). The organic phase was washed with water and brine, dried over Na2SO4, filtered and concentrated. The residue was purified by preparative HPLC (Phenomenex Luna column; gradient: 10-90% MeCN-water with 0.1% TFA). The fractions with product were concentrated down to the aqueous phase and then partitioned between EtOAc (25 mL) and saturated aqueous NaHCO3 solution (20 mL). The organic phase was washed with brine, dried over Na2SO4, filtered and concentrated to give 1-(2-(methylthio)ethyl)-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile: MS (ESI): m/z 327 (M+H).

reactant | 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.099 mmol, 0.025 g | C(CC)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H11F3N2
reactant | Cs2CO3 | 0.396 mmol, 0.129 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (2-chloroethyl)(methyl)sulfane | 0.396 mmol, 0.039 mL | ClCCSC | C3H7ClS
reactant | potassium iodide | 0.099 mmol, 0.0165 g | [I-].[K+]
reactant | Cs2CO3 | 0.396 mmol, 0.129 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (2-chloroethyl)(methyl)sulfane | 0.396 mmol, 0.039 mL | ClCCSC | C3H7ClS
reactant | potassium iodide | 0.099 mmol, 0.0165 g | [I-].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(2-(methylthio)ethyl)-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CSCCN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CCC | C16H17F3N2S
